US07989444B2
4-Methyl-8-(3-{[4-methyl-5-(4-methyl-1,3-oxazol-5-yl)-4H-1,2,4-triazol-3-yl]thio}propyl)-4,6,7,8,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepin-3(2H)-one hydrochloride
The title compound was prepared in analogy to General Procedure 1 from 4-methyl-4,6,7,8,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepin-3(2H)-one (37 mg) and 3-[(3-chloropropyl)thio]-4-methyl-5-(4-methyl-1,3-oxazol-5-yl)-4H-1,2,4-triazole and was obtained as a faint yellow slightly sticky solid (45 mg).

reactant | 4-methyl-4,6,7,8,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepin-3(2H)-one | 37 mg | CN1C(COC=2C1=CC1=C(CCNCC1)C2)=O | C13H16N2O2
reactant | 3-[(3-chloropropyl)thio]-4-methyl-5-(4-methyl-1,3-oxazol-5-yl)-4H-1,2,4-triazole | ClCCCSC1=NN=C(N1C)C1=C(N=CO1)C | C10H13ClN4OS
product | 4-Methyl-8-(3-{[4-methyl-5-(4-methyl-1,3-oxazol-5-yl)-4H-1,2,4-triazol-3-yl]thio}propyl)-4,6,7,8,9,10-hexahydro[1,4]oxazino[2,3-h][3]benzazepin-3(2H)-one hydrochloride | Cl.CN1C(COC=2C1=CC1=C(CCN(CC1)CCCSC1=NN=C(N1C)C1=C(N=CO1)C)C2)=O | InChI=1S/C23H28N6O3S.ClH/c1-15-21(32-14-24-15)22-25-26-23(28(22)3)33-10-4-7-29-8-5-16-11-18-19(12-17(16)6-9-29)31-13-20(30)27(18)2;/h11-12,14H,4-10,13H2,1-3H3;1H
